### PR TITLE
feat: `toInt_sshiftRight`

### PR DESCRIPTION
**Pull request by mhk119**
This PR adds `toInt_sshiftRight` theorem as well as associated API/lemmas.

### CODE REVIEW

File: src/Init/Data/Int/Lemmas.lean [hunk 1]
```diff
@@ -388,6 +388,7 @@ protected theorem mul_right_comm (a b c : Int) : a * b * c = a * c * b := by
 
 @[simp] protected theorem zero_mul (a : Int) : 0 * a = 0 := Int.mul_comm .. ▸ a.mul_zero
 
+
 theorem negOfNat_eq_subNatNat_zero (n) : negOfNat n = subNatNat 0 n := by cases n <;> rfl
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/Lemmas.lean:392]:
```suggestion
theorem negOfNat_eq_subNatNat_zero (n) : negOfNat n = subNatNat 0 n := by cases n <;> rfl
```
